US09163021B2
[5-(Benzhydrylidene-amino)-pyridin-3-yl]-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone
To a stirring solution of 1-[2-(tert-Butyl-dimethyl-silyloxy)-1,1-dimethyl-ethyl]-7-fluoro-3-iodo-1H-pyrrolo[3,2-c]pyridine (Preparation 73, 3 g, 6.69 mmol) in dry ether (100 mL) at −78° C., n-BuLi (3.9 mL, 1.84M, 7.17 mmol) was added and stirred for 30 minutes. Then 5-(benzhydrylidene-amino)-N-methoxy-N-methyl-nicotinamide (Preparation 52, 2.31 g, 6.69 mmol) in dry ether (10 mL) was added drop wise for 5 min. After 1 hr reaction mixture was quenched with saturated aqueous solution of ammonium chloride and extracted with ethyl acetate. The organic phase was dried over sodium sulphate and evaporated in vacuo to afford the crude compound, purified by silica gel column chromatography eluting with Ethyl acetate: Hexane 30:70 to 35:65 to afford the title compound as a light red solid (25%, 1 g).

reactant | 1-[2-(tert-Butyl-dimethyl-silyloxy)-1,1-dimethyl-ethyl]-7-fluoro-3-iodo-1H-pyrrolo[3,2-c]pyridine | 6.69 mmol, 3 g | C(C)(C)(C)[Si](OCC(C)(C)N1C=C(C=2C=NC=C(C21)F)I)(C)C | C17H26FIN2OSi
reactant | n-BuLi | 7.17 mmol, 1.84M, 3.9 mL | [Li]CCCC
reactant | 5-(benzhydrylidene-amino)-N-methoxy-N-methyl-nicotinamide | 6.69 mmol, 2.31 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=NC=C(C(=O)N(C)OC)C1 | C21H19N3O2
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | [5-(Benzhydrylidene-amino)-pyridin-3-yl]-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone | 1 g, 25% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO[Si](C)(C)C(C)(C)C)(C)C | C36H39FN4O2Si
